US06555577B1
(E)-Ethyl 3-(4-bromophenyl)-2-methyl-but-2-enoate (2.83 g, 9.99 mmol) was reduced with DIBAL-H by a procedure analogous to that described in example 52b to give (E)-3-(4-bromophenyl)-2-methyl-but-2-en-1-ol as a colourless oil; 1.82 g (75%).

reactant | (E)-Ethyl 3-(4-bromophenyl)-2-methyl-but-2-enoate | 9.99 mmol, 2.83 g | BrC1=CC=C(C=C1)/C(=C(/C(=O)OCC)\C)/C | C13H15BrO2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
product | (E)-3-(4-bromophenyl)-2-methyl-but-2-en-1-ol | BrC1=CC=C(C=C1)/C(=C(/CO)\C)/C | C11H13BrO
